US05428046
a) Methyl 5-[(4-fluorophenylsulfonyl)amino]-pyridine-2-carboxylate
3.8 g (25 mmol) of methyl 5-amino-pyridine-2-carboxylate were dissolved in 75 ml of anhydrous pyridine, and 5.8 g (30 mmol) of 4-fluorobenzenesulfonyl chloride were added in portions, whereupon the temperature of the reaction solution rose to 35° C. After 1 hour, the mixture was concentrated in vacuo and the residue was triturated with water, filtered off with suction, washed with water and dried. This gave 7.3 g of product, melting point 183° to 185° C.

reactant | methyl 5-amino-pyridine-2-carboxylate | 25 mmol, 3.8 g | NC=1C=CC(=NC1)C(=O)OC | C7H8N2O2
reactant | 4-fluorobenzenesulfonyl chloride | 30 mmol, 5.8 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | Methyl 5-[(4-fluorophenylsulfonyl)amino]-pyridine-2-carboxylate | FC1=CC=C(C=C1)S(=O)(=O)NC=1C=CC(=NC1)C(=O)OC | C13H11FN2O4S
